US06784192B2
1-[(2-Methoxy-3-piridyl)methyl]-4-(1-ethynyl)piperidine
2.9 g of 1-[(2-methoxy-3-piridyl)methyl]-4-(2,2-dibromovinyl)piperidine was dissolved in 25 ml of tetrahydrofuran, and 12.3 ml of a 1.50 M n-butyllithium hexane solution was added dropwise at −78° C. After completing the dropwise addition, the mixture was further stirred at −78° C. for one hour. An aqueous saturated ammonium chloride was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then the dried over anhydrous magnesium sulfate. The solvent was evaporated, to give the title compound as a yellow oil (quantitatively).

reactant | 1-[(2-methoxy-3-piridyl)methyl]-4-(2,2-dibromovinyl)piperidine | 2.9 g | COC1=NC=CC=C1CN1CCC(CC1)C=C(Br)Br | C14H18Br2N2O
reactant | n-butyllithium hexane | 1.50 M | CCCCCC.C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxy-3-piridyl)methyl]-4-(1-ethynyl)piperidine | COC1=NC=CC=C1CN1CCC(CC1)C#C | C14H18N2O
